US06235778B1
f) 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride
To a solution of 3-[3-(5-isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyamine (100 mg, 0.25 mmol), as prepared in the preceding step, in N,N-dimethylformamide (4 mL) was added 1H-pyrazole-carboxamidine hydrochloride (150 mg, 1.0 mmol). The reaction mixture was stirred at ambient temperature for two days. N,N-Dimethylformamide was removed under high vacuum. Acetonitrile (5 mL) was added and the solid was removed by filtration. The filtrate was concentrated in vacuo and the residue was dried under high vacuum. The residue was partitioned between water (20 mL plus 2 mL brine) and diethyl ether (10 mL). The water solution was extracted with diethyl ether (10 mL). The combined diethyl ether extracts were extracted with pH 5 water. The combined water solution was basified (pH 8-9) by using 2 N NaOH and extracted with ethyl acetate (3×30 mL). The ethyl acetate solution was washed with pH 7 buffer solution (2×20 mL) and brine (20 mL) then dried over Na2SO4. After removing the solvent, 0.6 N HCl methanol (3 mL) was added, and the solution was concentrated to give the title compound as colorless foam (95 mg, 81%). 1H-NMR (300 MHz, DMSO-d6) δ11.16 (br s, 1H), 9.75 (s, 1H), 8.89 (d, J=6.3 Hz, 1H), 8.73 (d, J=8.3 Hz, 1H), 8.46 (m, 4H), 7.93 (t, J=7.9 Hz, 1H), 7.72 (br s, 4H), 6.71 (s, 1H), 6.33 (s, 1H), 6.27 (s, 1H), 3.88 (m, 4H), 2.13 (s, 3H), 1.94 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C20H22N4O5S: 431.1 (M+H), 453.1 (M+Na). Found: 431.2, 453.3.

reactant | 3-[3-(5-isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyamine | 0.25 mmol, 100 mg | C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C19H20N2O5S
reactant | 1H-pyrazole-carboxamidine hydrochloride | 1.0 mmol, 150 mg | Cl.N1N=C(C=C1)C(=N)N
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 3-[3-(5-Isoquinolinylsulfonyloxy)-5-methylphenoxy]propoxyguanidine hydrochloride | 95 mg, 81% | Cl.C1=NC=CC2=C(C=CC=C12)S(=O)(=O)OC=1C=C(OCCCONC(=N)N)C=C(C1)C | InChI=1S/C20H22N4O5S.ClH/c1-14-10-16(27-8-3-9-28-24-20(21)22)12-17(11-14)29-30(25,26)19-5-2-4-15-13-23-7-6-18(15)19;/h2,4-7,10-13H,3,8-9H2,1H3,(H4,21,22,24);1H
